US07687664B2
Methyl (3′-acetyl-4′-methoxybiphenyl-3-yl)acetate
357 mg of Methyl (4′-methoxy-3′-trifluoromethanesulfonyloxybiphenyl-3-yl)acetate was dissolved in 3 ml of N,N-dimethylformamide, then 0.45 ml of butyl vinyl ether, 10 mg of palladium acetate, 20 mg of diphenyl phosphinopropane and 1 ml of triethylamine were added thereto, and the mixture was stirred at 80° C. overnight in a nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate and washed with 1N hydrochloric acid. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography, to give 184 mg of the title compound in the 4:1 hexane-ethyl acetate fraction.

reactant | Methyl (4′-methoxy-3′-trifluoromethanesulfonyloxybiphenyl-3-yl)acetate | 357 mg | COC1=C(C=C(C=C1)C1=CC(=CC=C1)CC(=O)OC)OS(=O)(=O)C(F)(F)F | C17H15F3O6S
reactant | butyl vinyl ether | 0.45 ml | C(=C)OCCCC | C6H12O
reactant | diphenyl phosphinopropane | 20 mg | C1(=CC=CC=C1)C(CC)(P)C1=CC=CC=C1 | C15H17P
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl (3′-acetyl-4′-methoxybiphenyl-3-yl)acetate | 184 mg | C(C)(=O)C=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C18H18O4
